US07208495B2
3-(5-(4-[3,4-dimethoxyphenyl]piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl)-2,3,4,5-tetrahydro-1H-3-benzoazepin
Using 2,3,4,5-tetrahydro-1H-3-benzazepine and 5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 19, the title compound was synthesized in the same manner as in Example 57. Yield 54%. mp. 136–138° C. (hexane-methanol).

reactant | 2,3,4,5-tetrahydro-1H-3-benzazepine | C1CNCCC2=C1C=CC=C2 | C10H13N
reactant | 5-(4-(3,4-dimethoxyphenyl)piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC=1C=C(C=CC1OC)C1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C26H35NO4
solvent | hexane methanol | CCCCCC.CO
product | 3-(5-(4-[3,4-dimethoxyphenyl]piperidino)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl)-2,3,4,5-tetrahydro-1H-3-benzoazepin | Yield 54% | COC=1C=C(C=CC1OC)C1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)N2CCC3=C(CC2)C=CC=C3)C1C)C)C | C36H46N2O3
